US05928872
Uridine Analog-incorporation
The subtracter-amplicon was diluted to 10 μg/ml, and four PCR reactions were set up on ice to generate subtracter U-DNA for the control set. Each 50 μl reaction contained 2 μl diluted ligation, 1 μl 4 μg/μl S-hpa-24mer oligo, 2 μl dNTPs (10 mM dATP, 10 mM dCTP, 10 mM dGTP, and 30 mM dUTP), 5 μl 10× PCR buffer, 1 μl 3.5 U/μl Taq DNA polymerase and ddH2O. The S-hpa-12mer was melted away (5 min, 72° C.), and ends filled in with Taq DNA polymerase (7 min, 72° C.). Twenty-one cycles of amplification were performed (1 min, 95° C.; 3 min, 72° C.), and the products were phenol-extracted, isopropanol-precipitated and resuspended in 20 μl 10 mM Tris-buffer each (Sambrook et. al., "Molecular Cloning, 2nd Edition", p10.49 (1989)). The S-adaptors were then removed with Hpa2-restriction, and the restricted products (subtracters) were phenol-extracted, isopropanol-precipitated, combined and resuspended in a total 16 μl EEx3 buffer (30 mM EPPS, pH 8.0 at 20° C.; 3mM EDTA). 6 μl (9 μg) subtracters were measured on a 2.5% TBE-agarose gel.

reactant | dATP | 10 mM | C1=NC(=C2C(=N1)N(C=N2)[C@H]3C[C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OP(=O)(O)O)O)N | C10H16N5O12P3
reactant | dCTP | 10 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)N=C(N)C=C1)O | C9H16N3O13P3
reactant | dGTP | 10 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C=NC=2C(=O)NC(N)=NC12)O | C10H16N5O13P3
reactant | dUTP | 30 mM | C1=CN(C(=O)NC1=O)[C@H]2C[C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OP(=O)(O)O)O | C9H15N2O14P3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | Uridine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
